US06310056B1
To a solution of 353.2 mg of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 7 ml of dry acetonitrile was added dropwise 0.34 ml of N,N-diisopropylethylamine, followed by 0.18 ml of anhydrous trifluoromethanesulfonic acid under the atmosphere of argon at −15° C. After the reaction mixture was stirred at the same temperature 30 minutes, it was diluted with 10 ml of ethyl acetate, washed sequentially with semi-saturated aqueous saline, a mixed solution of semi-saturated aqueous saline and 1 N hydrochloric acid, a mixed solution of semi-saturated aqueous saline and saturated aqueous sodium hydrogen carbonate, and semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, filtered, mixed with 2 ml of dry N-methylpyrrolidinone, and ethyl acetate was removed under reduced pressure. To the residue were added a solution of 26.8 mg of tris(dibenzylideneacetone)dipalladium(0), 27.2 mg of tri-2-furylphosphine and 470 mg of 3-methyl-2-(tri-n-butyl-stannyl)imidazo[5,1-b]thiazole in 0.5 ml of dry N-methylpyrrolidinone 0.5 ml, and 266 mg of zinc chloride, and the mixture was stirred under the atmosphere of argon at 50° C. for 1 hour. The solvent was concentrated under reduced pressure, diluted with 20 ml of ethyl acetate and 80 ml of water, and adjusted weak alkaline with saturated aqueous sodium hydrogen carbonate. The insolubles were collected by filtration, the residue was dissolved in acetone, and the solubles were concentrated. Further, the organic layer of the filtrate was separated, washed once with 20 ml of saturated aqueous saline, combined with the acetone solubles, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:methanol=95:5) to give 5.71 g of 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(3-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate.

reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 353.2 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | N,N-diisopropylethylamine | 0.34 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic acid | 0.18 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(3-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 5.71 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=C(N3C(S2)=CN=C3)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C23H22N4O6S
